US08133884B2
Step 1: Preparation of 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid
TFA (2.8 mL, 37 mmol) was added to a stirring solution of tert-butyl 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (350 mg, 0.527 mmol) in dichloroethane (5 mL) at room temperature. The reaction was allowed to stir for 2.5 hrs and then was concentrated to dryness to give expected product (320 mg, 0.526 mmol, quant) consistent by LCMS.

reactant | TFA | 37 mmol, 2.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.527 mmol, 350 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)OCC)C=C(C=C1)OC)C(=O)OC(C)(C)C | C41H49N3O5
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.526 mmol, 320 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)OCC)C=C(C=C1)OC)C(=O)O | C37H41N3O5
